US06852732B2
After 1-(2,4-dichlorophenyl)-4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]-pyridine (5.21 g) was stirred in a mixture of 4 M hydrochloric acid (60 mL) and tetrahydrofuran (60 mL) at room temperature for 2.5 hours, 6 M hydrochloric acid (30 mL) was added thereto and the resulting mixture was stirred overnight. After completion of the reaction, the reaction mixture was poured into a saturated aqueous sodium hydrogen-carbonate solution and extracted three times with ethyl acetate. The combined organic layer was dried over anhydrous sodium sulfate, after which the desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The crystals thus obtained were washed with ethyl acetate to obtain 1-(2,4-dichlorophenyl)-4-(4-oxopiperidin-1-yl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine (3.83 g).

reactant | 1-(2,4-dichlorophenyl)-4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]-pyridine | 5.21 g | ClC1=C(C=CC(=C1)Cl)N1C(=C(C=2C1=NC(=CC2N2CCC1(OCCO1)CC2)C)C)C | C23H25Cl2N3O2
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 4 M, 60 mL | Cl | ClH
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 6 M, 30 mL | Cl | ClH
product | 1-(2,4-dichlorophenyl)-4-(4-oxopiperidin-1-yl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine | 3.83 g | ClC1=C(C=CC(=C1)Cl)N1C(=C(C=2C1=NC(=CC2N2CCC(CC2)=O)C)C)C | C21H21Cl2N3O
